US04492659
The 2-methoxy-3-octadecyloxy-1-propanethiol used as starting material is prepared in the following manner: 2-methoxy-3-octadecyloxy-1-propanol is reacted with benzenesulfochloride in anhydrous pyridine to give 2-methoxy-3-octadecyloxy-1-propanol benzene-sulfonate, (oil). This is then reacted with thiorea in butanol to give the isothiuronium salt which is saponified with potassium hydroxide solution and the thiol liberated with hydrochloric acid.

reactant | 2-methoxy-3-octadecyloxy-1-propanethiol | COC(CS)COCCCCCCCCCCCCCCCCCC | C22H46O2S
reactant | 2-methoxy-3-octadecyloxy-1-propanol | COC(CO)COCCCCCCCCCCCCCCCCCC | C22H46O3
reactant | benzenesulfochloride | C1=CC=C(C=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-methoxy-3-octadecyloxy-1-propanol benzene-sulfonate | C1(=CC=CC=C1)S(=O)(=O)OCC(COCCCCCCCCCCCCCCCCCC)OC | C28H50O5S
